US09403798B2
tert-Butyl 4-fluoro-4-(4-fluorophenyl)-2-methylpiperidine-1-carboxylate
To a dichloromethane solution (2.0 mL) of tert-butyl 4-(4-fluorophenyl)-4-hydroxy-2-methylpiperidine-1-carboxylate (60.0 mg, 0.194 mmol) synthesized in Reference Synthesis Example 279, bis(2-methoxyethyl))amino-sulfur trifluoride (46.9 mg, 0.291 mmol) was added at −78° C. and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, saturated sodium carbonate aqueous solution was added to the reaction solution and extraction from the resultant mixture with chloroform was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a crude product (54.4 mg) of the title compound.

reactant | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
reactant | tert-butyl 4-(4-fluorophenyl)-4-hydroxy-2-methylpiperidine-1-carboxylate | 0.194 mmol, 60.0 mg | FC1=CC=C(C=C1)C1(CC(N(CC1)C(=O)OC(C)(C)C)C)O | C17H24FNO3
reactant | amino-sulfur trifluoride | 0.291 mmol, 46.9 mg | NS(F)(F)F | F3H2NS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl 4-fluoro-4-(4-fluorophenyl)-2-methylpiperidine-1-carboxylate | 54.4 mg | FC1(CC(N(CC1)C(=O)OC(C)(C)C)C)C1=CC=C(C=C1)F | C17H23F2NO2
